US07192950B2
5-(3,4-Dichloro-benzyl)-7,8-dimethoxy-1,3-dihydro-benzo[e][1,4]diazepin-2-one
2-Bromo-N-{2-[2-(3,4-dichloro-phenyl)-acetyl]-4,5-dimethoxy-phenyl}-acetamide (5.25 g, 11.39 mmol) was placed at −10° C. under nitrogen. Ammonia in methanol (7N, 55 ml) was added dropwise at −10° C. and the reaction mixture was heated at 40° C. for 2.5 h, and then at reflux (75° C.) for 1 h. The solvent was evaporated under vacuum yielding a yellow solid which was dissolved in dichloromethane and washed with water. The organic phase was dried over magnesium sulfate, filtered and evaporated to dryness. Flashchromatography (dichloromethane/methanol, 18/1) yielded the expected product as a yellow solid (1.5 g, 35%).

reactant | 2-Bromo-N-{2-[2-(3,4-dichloro-phenyl)-acetyl]-4,5-dimethoxy-phenyl}-acetamide | 11.39 mmol, 5.25 g | BrCC(=O)NC1=C(C=C(C(=C1)OC)OC)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C18H16BrCl2NO4
reactant | Ammonia | N | H3N
solvent | methanol | 7N, 55 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(3,4-Dichloro-benzyl)-7,8-dimethoxy-1,3-dihydro-benzo[e][1,4]diazepin-2-one | 1.5 g, 35% | ClC=1C=C(CC=2C3=C(NC(CN2)=O)C=C(C(=C3)OC)OC)C=CC1Cl | C18H16Cl2N2O3
